US05221685
(17) Synthesis of 2-(3-fluorobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline (Compound 17)
In dichloromethane (10 ml) were dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (1.0 g) and dicyclohexylcarbodiimide (2.4 g), and a solution of 3-fluorobenzoic acid (1.6 g) dissolved in dichloromethane (10 ml) was gradually added thereto and the mixture was stirred at room temperature for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 1.0 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | dicyclohexylcarbodiimide | 2.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 3-fluorobenzoic acid | 1.6 g | FC=1C=C(C(=O)O)C=CC1 | C7H5FO2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(3-fluorobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline | FC=1C=C(C(=O)NC=2SC(C(N2)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F)C=CC1 | C14H5F11N2OS
